US05366987
(c) 2-Dodecyltetrazoleacetic acid
A solution of KOH (4.21 g, 0.075 mol) in water (10 mL) was added to a solution of the 2-dodecyltetrazole acetic acid ethyl ester (23.2 g, 0.0715 mol) in ethanol (250 mL). The mixture was stirred at room temperature for 3 hours, concentrated in vacuo to ~50 mL, diluted with water (200 mL), and washed with ethyl acetate (100 mL). The aqueous layer was acidified with 1.0M HCl and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, and concentrated to give 18.0 g, 85% of a white solid, mp 70°-73° C.

reactant | KOH | 0.075 mol, 4.21 g | [OH-].[K+]
reactant | 2-dodecyltetrazole acetic acid ethyl ester | 0.0715 mol, 23.2 g | C(C)OC(CC=1N=NN(N1)CCCCCCCCCCCC)=O | C17H32N4O2
solvent | water | 10 mL | O | H2O
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-Dodecyltetrazoleacetic acid | 18.0 g, 85% | C(CCCCCCCCCCC)N1N=C(N=N1)CC(=O)O | C15H28N4O2
